US05574044
To a stirred solution of 0.044 g of 1,3-dihydro-1-{trans-4-[1-piperazinyl]-1-cyclohexyl}-2H-benzimidazol-2-one and 0.2 mL of triethylamine in 3 mL of dichloromethane was added 0.030 g of pyrimidine-5-carboxylic acid chloride. After 2 h, 5 mL of dilute aqueous ammonia was added and the mixture stirred for an additional 30 min. The organic layer was separated, the aqueous layer extracted s with two addtional 20 mL portions of chloroform and the combined organic extracts dried over MgSO4 and concentrated under reduced pressure. Chromatography over silica gel eluting with 10% methanol in ethyl acetate gave 0.030 g of 1,3-dihydro-1-{trans-4-[4-(5-pyrimidinecarbonyl)piperazin-1-yl]-1-cyclohexyl}-2H-benzimidazol-2-one as a white solid: 1H NMR (400 MHz, CDCl3) 9.76 (s, 1H), 9.29 (s, 1H), 8.83 (s, 2H), 7.16-7.04 (m, 4H), 4.27 (m, 1H), 3.84 (s, 2H), 3.48 (s, 2H), 2.72 (s, 2H), 2.61 (s, 2H), 2.56 (m, 1H), 2.30 (q, 2H), 2.05 (m, 4H), 1.86 (br s, 1H), 1.5 (q, 2H). The dihydrochloride salt was precipitated from chloroform/ethyl acetate: Analysis calculated for C22H26N6O2.2HCl.0.65 CHCl3C: 48.84, H: 5.18, N: 15.09 found C: 8.85, H: 5.36, N: 14.72.

reactant | 1,3-dihydro-1-{trans-4-[1-piperazinyl]-1-cyclohexyl}-2H-benzimidazol-2-one | 0.044 g | N1(CCNCC1)[C@@H]1CC[C@H](CC1)N1C(NC2=C1C=CC=C2)=O | C17H24N4O
reactant | triethylamine | 0.2 mL | C(C)N(CC)CC | C6H15N
reactant | pyrimidine-5-carboxylic acid chloride | 0.030 g | N1=CN=CC(=C1)C(=O)Cl | C5H3ClN2O
reactant | ammonia | 5 mL | N | H3N
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 1,3-dihydro-1-{trans-4-[4-(5-pyrimidinecarbonyl)piperazin-1-yl]-1-cyclohexyl}-2H-benzimidazol-2-one | 0.030 g | N1=CN=CC(=C1)C(=O)N1CCN(CC1)[C@@H]1CC[C@H](CC1)N1C(NC2=C1C=CC=C2)=O | C22H26N6O2
